*********************************************************************
*  TOSHIBA CORPORATION SEMICONDUCTOR & STORAGE PRODUCTS COMPANY
*  Date                 : 27/05/2014
*  File name            : 1SS352.lib
*  Part Number          : 1SS352
*  Parameter ver.       : Ver.1
*  Simulator            : PSPICE
*  Model call name      : DIODE_1SS352
*  TNOM                 : 25 degree
*********************************************************************

.SUBCKT DIODE_1SS352 1 2
D1 1 2 diode
C0 1 2 3.2821e-13
.MODEL diode D
+ IS = 8.63e-10
+ N = 1.7569
+ ISR = 1.1536e-10
+ NR = 2.0247
+ BV = 80
+ IBV = 5e-07
+ RS = 1.308
+ CJO = 1.041e-13
+ VJ = 1.5643
+ M = 0.86221
+ FC = 0.5
+ TT = 1.52e-08
+ EG = 1.11
+ XTI = 3.4702
+ AF = 1
+ KF = 0
+ NBV = 1
+ IBVL = 0
+ NBVL = 1
+ TNOM = 25
.ends


